US06511974B1
3-Dimethylamino-1-[4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-2-buten-1-one
A mixture of 1-[4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-ethanone (2.0 g) and dimethylacetamide dimethylacetal (15 ml) was refluxed in an inert atmosphere for 15 hours and the volatiles were removed at reduced pressure. The crude solid was dissolved in dichloromethane and filtered through a short column of hydrous sodium magnesium silicate followed by several volumes of dichloromethane. The combined eluant was concentrated and hexane was gradually added until crystallization occurred. The cooled solution was filtered to recover the title compound (1.03 g) as a crystalline solid, m.p. 183-185° C.

reactant | 1-[4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-ethanone | 2.0 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)C(C)=O | C21H18N2O2
reactant | dimethylacetamide dimethylacetal | 15 ml | COC(C)(N(C)C)OC | C6H15NO2
product | 3-Dimethylamino-1-[4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-2-buten-1-one | CN(C(=CC(=O)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)C)C | C25H25N3O2
